US07465726B2
4-[4-(1-Methyl-6-oxo-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide
4-[4-(1-Methyl-6-oxo-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (38.0 mg, 0.0845 mmol), 9M of Hydrogen chloride in Methanol (2 mL) and Methanol (2 mL) were combined, and the above miture was stirred at rt for 3 h. The reaction mixture was concentrated in vacuo to obtain a black solid. DMF (3 mL), NEt3 (58.9 μL, 0.423 mmol) and tert-butyl isocyanate (14.5 μL, 0.127 mol) were added, and the mixture was stirred at rt under N2 for 1.5 h. Another portion of tert-butyl isocyanate was added and the reaction was stirred overnight. The mixture was concentrated in vacuo, and the residue was purified by HPLC to obtain the title compound as pink solid. 1H NMR (CD3OD, 400 MHz): δ=1.36 (s, 9H), 2.56 (brs, 2H), 3.61 (m, 2H), 3.62 (s, 3H), 4.07 (brs, 2H), 6.29 (brs, 1H), 6.58 (s, 1H), 6.60 (d, 1H, J=9.6 Hz), 7.71 (dd, 1H, J=2.8 & 9.6 Hz), 8.16 (brs, 2H), 8.19 (s, 1H), 8.25 (d, 1H, J=2.4 Hz). MS (ES+): m/z 422.12 (100) [MH+]. HPLC: tR=20.11 min (ZQ2000, polar—5 min).

reactant | 4-[4-(1-Methyl-6-oxo-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.0845 mmol, 38.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CN(C(C=C2)=O)C)N1 | C22H26N6O3
reactant | Hydrogen chloride | 9M | Cl | ClH
reactant | NEt3 | 0.423 mmol, 58.9 μL | CCN(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 0.127 mol, 14.5 μL | C(C)(C)(C)N=C=O | C5H9NO
solvent | Methanol | 2 mL | CO | CH4O
solvent | Methanol | 2 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[4-(1-Methyl-6-oxo-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CN(C(C=C2)=O)C)N1 | C22H27N7O2
